US05663164
A mixture of one liter of methylene chloride, 500 ml of water and 100 g of p-nitrobenzyl glycinate tosylate was strongly stirred while 26 ml of 10N sodium hydroxide were added dropwise and stirring was continued for 5 minutes after the addition. The decanted aqueous phase was extracted with methylene chloride and the combined organic phases were washed with water, dried and concentrated to dryness under reduced pressure at less than 40° C. to obtain 52.3 g of p-nitrobenzyl glycinate melting at 45°-50° C.

reactant | methylene chloride | one liter | C(Cl)Cl | CH2Cl2
reactant | p-nitrobenzyl glycinate tosylate | 100 g | S(=O)(=O)(O)C1=CC=C(C)C=C1.NCC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-]
reactant | sodium hydroxide | 10N, 26 ml | [OH-].[Na+]
solvent | water | 500 ml | O | H2O
product | p-nitrobenzyl glycinate | 52.3 g | NCC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C9H10N2O4
